US05436224
Production of 6-methyl-5-phenyl-3-(1,1,2,2-tetramethylpropyl)-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 666)
A mixture of 5-phenyl-2,2,6-trimethyl-2h,4h-1,3-dioxin-4-one (0.65 g), N-methylene-1,1,2,2-tetramethylpropylamine (0.54 g) and xylene (2 ml) was heated at reflux for 30 minutes for reaction. The reaction mixture was purified by silica gel chromatography to obtain the captioned compound (0.40 g).

reactant | 5-phenyl-2,2,6-trimethyl-2h,4h-1,3-dioxin-4-one | 0.65 g | C1(=CC=CC=C1)C=1C(OC(OC1C)(C)C)=O | C13H14O3
reactant | N-methylene-1,1,2,2-tetramethylpropylamine | 0.54 g | C=NC(C(C)(C)C)(C)C | C8H17N
solvent | xylene | 2 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-methyl-5-phenyl-3-(1,1,2,2-tetramethylpropyl)-2,3-dihydro-4H-1,3-oxazin-4-one | 0.40 g | CC1=C(C(N(CO1)C(C(C)(C)C)(C)C)=O)C1=CC=CC=C1 | C18H25NO2
